US04287335
In 6 ml of methanol, 1.50 g of 1,2-dimethyl pyridinium iodide and 1.50 g of m-(2,2-dimethoxyethoxy)-benzaldehyde were dissolved. The resultant solution, with two drops of piperidine added thereto, was refluxed for five hours and thereafter cooled off. Consequently, crystals were deposited. When the crystals were collected and washed thoroughly with acetone, there was obtained 2.34 g of 1-methyl-2-[m-(2,2-dimethoxyethoxy)-styryl]pyridinium iodide. In water, this product showed the highest absorption at 336 nm (ε=2.13×104). The infrared absorption spectrum (KBr) showed peaks at 1620, 1600, 1580, 1268, 1137, 1068, 965, 840, 772 and 680 cm-1. The yield was 86%.

reactant | 1,2-dimethyl pyridinium iodide | 1.50 g | [I-].C[N+]1=C(C=CC=C1)C
reactant | m-(2,2-dimethoxyethoxy)-benzaldehyde | 1.50 g | COC(COC=1C=C(C=O)C=CC1)OC | C11H14O4
solvent | methanol | 6 ml | CO | CH4O
catalyst | piperidine | two drops | N1CCCCC1 | C5H11N
product | 1-methyl-2-[m-(2,2-dimethoxyethoxy)-styryl]pyridinium iodide | 2.34 g, yield was 86% | [I-].C[N+]1=C(C=CC=C1)C=CC1=CC(=CC=C1)OCC(OC)OC | InChI=1S/C18H22NO3.HI/c1-19-12-5-4-8-16(19)11-10-15-7-6-9-17(13-15)22-14-18(20-2)21-3;/h4-13,18H,14H2,1-3H3;1H/q+1;/p-1
